US20010027196A1
2-Amino-4-furan-2-yl-6-isopropoxy-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, isopropyl alcohol and DBU in DME. EI-MS m/e (%): 244 (M+, 40), 202 ([M—C3H6]+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-isopropoxy-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OC(C)C | C12H12N4O2
